US05708173
To a suspension of sodium hydride (60% dispersion in mineral oil, 165 mg) in N,N-dimethylformamide (1 ml) was added dropwise a solution of ethyl 4-(tert-butoxycarbonylamino)cinnamate (1.00 g) in N,N-dimethylformamide (5 ml) in ice water bath under nitrogen and stirred for 1 hour under same condition. To the mixture was added 2-bromoethyl methyl ether (602 mg) and stirred for 1 hour at same condition and at ambient temperature for 20 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting to a mixture of n-hexane and ethyl acetate (4:1) to give ethyl 4-[N-tert-butoxycarbonyl-N-(2-methoxyethyl)amino]cinnamate (935 mg) as an oil.

reactant | sodium hydride | 165 mg | [H-].[Na+]
reactant | ethyl 4-(tert-butoxycarbonylamino)cinnamate | 1.00 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C16H21NO4
reactant | 2-bromoethyl methyl ether | 602 mg | COCCBr | C3H7BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[N-tert-butoxycarbonyl-N-(2-methoxyethyl)amino]cinnamate | 935 mg | C(C)(C)(C)OC(=O)N(CCOC)C1=CC=C(C=CC(=O)OCC)C=C1 | C19H27NO5
